US06593335B1
8-(3-cyanophenyl)-2,3,4,5,6,8-hexahydrodithieno [3.2-b:2′,3′-e]pyridine. 1,1,7,7-tetraoxide
3-Cyanobenzaldehyde (132 mg, 1.01 mmol), tetrahydrothiophene-3-oxo-1,1-dioxide (272 mg, 2.03 mmol) and 2.0 M NH3 in ethanol (0.75 mL, 1.5 mmol) were heated to 80° C. in ethanol (4 mL) in a sealed tube for 3 days, cooled, treated with 1.0 M HCl in ether (1 mL), heated to reflux for 1 hour, cooled and solvent evaporated. The crude was flash chromatographed over silica gel (15% methanol/chloroform), and the product triturated with ethyl acetate to provide 87 mg of the title compound as an off-white solid.

reactant | 3-Cyanobenzaldehyde | 1.01 mmol, 132 mg | C(#N)C=1C=C(C=O)C=CC1 | C8H5NO
reactant | tetrahydrothiophene-3-oxo-1,1-dioxide | 2.03 mmol, 272 mg | C1CS(=O)(=O)CC1=O | C4H6O3S
reactant | NH3 | 2.0 M | N | H3N
reactant | HCl | 1.0 M | Cl | ClH
solvent | ethanol | 4 mL | C(C)O | C2H6O
solvent | ether | 1 mL | CCOCC | C4H10O
solvent | ethanol | 1.5 mmol, 0.75 mL | C(C)O | C2H6O
product | 8-(3-cyanophenyl)-2,3,4,5,6,8-hexahydrodithieno [3.2-b:2′,3′-e]pyridine | 87 mg | C(#N)C=1C=C(C=CC1)C1C2=C(NC3=C1SCC3)CCS2 | C16H14N2S2
